* Schematics Netlist *



R_R11         $N_0002 $N_0001  9.5k  
R_R14         $N_0004 $N_0003  10k  
R_R13         $N_0003 $N_0005  10k  
Q_Q1         $N_0001 $N_0003 $N_0005 Q2N3505
R_R10         $N_0001 $N_0005  2k  
R_R16         $N_0004 $N_0006  10k  
R_R15         $N_0006 $N_0005  10k  
R_R17         0 $N_0007  10k  
X_U7         $N_0002 0 $N_0004 TL431
R_R12         0 $N_0002  2.5k  
V_V5         $N_0008 0 9
Q_Q2         $N_0007 $N_0006 $N_0005 Q2N3505
V_V6         $N_0005 $N_0008  
+SIN 0 7 400 0 0 0
